US09371473B2
Benzoyl Diacetamide Thiourea (“BDTU”) Adduct
To a 250 mL 3-neck RBF equipped with a condenser, magnetic stirrer, thermo-probe, nitrogen purge and pressure-equilibrated addition funnel was added benzoyl isothiocyanate (25.0 g, 0.150 mol) followed by dichloromethane (100 mL). The mixture was cooled in an ice-water bath at a temperature below 5° C., at which point diacetamide (15.3 g, 0.150 mol) and acetone as the solvent and dichloromethane (100 mL) were added slowly over a period of time of about 30 minutes. The ice-water bath was removed and the reaction mixture was stirred under a nitrogen purge overnight. The reaction mixture was then concentrated in vacuo at a temperature of 40° C. and then dried to constant weight in vacuo at a temperature of 50° C. and a pressure of <1 mTorr.

reactant | benzoyl isothiocyanate | 0.150 mol, 25.0 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | diacetamide | 0.150 mol, 15.3 g | CC(=O)NC(=O)C | C4H7NO2
reactant | acetone | CC(=O)C | C3H6O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Benzoyl Diacetamide Thiourea | NC(=S)N.CC(=O)N(C(=O)C)C(C1=CC=CC=C1)=O | InChI=1S/C11H11NO3.CH4N2S/c1-8(13)12(9(2)14)11(15)10-6-4-3-5-7-10;2-1(3)4/h3-7H,1-2H3;(H4,2,3,4)
